US07635715B2
Step D: Preparation of Ethyl 4-hydroxy-1,1,6-trimethyl-2-oxo-naphthalene-3-carboxylate
Concentrated H2SO4 (11.5 mL, 216 mmol) was added dropwise via addition funnel to stirred diethyl 2-(2-methyl-2-p-tolylpropanoyl)malonate (6.92 g, 21.6 mmol) at 0° C. The reaction mixture was stirred for 1.5 hours and then poured into a flask of ice, diluted with 200 mL of EtOAc, added to a separatory funnel, partitioned with water, washed 2 times with 75 mL of water, separated, dried over Na2SO4, and concentrated in vacuo to give the title compound (3.05 g) as a brown oil which was used without further purification. MS (m/z)=275 (M+H)+.

reactant | H2SO4 | 216 mmol, 11.5 mL | OS(=O)(=O)O | H2O4S
reactant | diethyl 2-(2-methyl-2-p-tolylpropanoyl)malonate | 21.6 mmol, 6.92 g | CC(C(=O)C(C(=O)OCC)C(=O)OCC)(C)C1=CC=C(C=C1)C | C18H24O5
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | Ethyl 4-hydroxy-1,1,6-trimethyl-2-oxo-naphthalene-3-carboxylate | 3.05 g | OC1=C(C(C(C2=CC=C(C=C12)C)(C)C)=O)C(=O)OCC | C16H18O4
